US07229990B2
(a) 5-Cyano-4-(3-nitrophenyl)-2-phenyl-6-hydroxy-pyrimidine
A mixture of benzamidine hydrochloride (16.4 g), 3-nitrobenzaldehyde (15.1 g), ethyl cyanoacetate (11.2 ml) and potassium carbonate (16.6 g) in abs. EtOH (250 ml) was stirred at 60° C. for 8 h. The reaction mixture was cooled to 0° C. in an ice bath. The resulting precipitate was filtered off, washed with abs. EtOH and heated in water (100° C.) until a clear solution was obtained. The solution was cooled to 50° C., acidified to pH 2 by adding 2N aq. HCl and cooled to 0° C. in an ice bath. The resulting precipitate was filtered off and washed with ice water. Residual water was removed by coevaporation with 1,4-dioxane.

reactant | benzamidine hydrochloride | 16.4 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | 3-nitrobenzaldehyde | 15.1 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl cyanoacetate | 11.2 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium carbonate | 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 250 ml | CCO | C2H6O
product | 5-Cyano-4-(3-nitrophenyl)-2-phenyl-6-hydroxy-pyrimidine | C(#N)C=1C(=NC(=NC1O)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C17H10N4O3
